US05478858
A suspenion of 4-methyl-5-nitrobenzimidazole (11.25 g), di-tert-butyl-dicarbonate (21.58 g), triethylamine (11.7 mL) and 4-dimethylaminopyridine (DMAP) (0.1 g) in a mixture of methanol (800 mL) and ethyl acetate (400 mL) is stirred at room temperature overnight. The mixture is rotary evaporated and the residue purified by flash chromatography on silica gel, eluting with 10% ethyl acetate in hexane. The product-containing fractions are combined and rotary evaporated to afford a white solid contaminated with a yellow oil. The solid is dissolved in methylene chloride (CH2Cl2) and enough hexane is added to cause precipitation. The solid is filtered and washed with 50% methylene chloride/hexane. The filtrate is rotary evaporated and the process repeated until no more clean white solid is obtained by precipitation. The combined solid fractions are dried in vacuo to afford 1-tert-butoxycarbonyl-4-methyl-5-nitrobenzimidazole as a white solid.

reactant | 4-methyl-5-nitrobenzimidazole | 11.25 g | CC1=C(C=CC=2N=CNC21)[N+](=O)[O-] | C8H7N3O2
reactant | di-tert-butyl-dicarbonate | 21.58 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 11.7 mL | C(C)N(CC)CC | C6H15N
reactant | hexane | CCCCCC | C6H14
catalyst | 4-dimethylaminopyridine | 0.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methanol | 800 mL | CO | CH4O
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-tert-butoxycarbonyl-4-methyl-5-nitrobenzimidazole | C(C)(C)(C)OC(=O)N1C=NC2=C1C=CC(=C2C)[N+](=O)[O-] | C13H15N3O4
